### PR TITLE
Add Erdős Problem 988 (spherical cap discrepancy), link the formal proof

### LINKED ISSUE #6341: Erdős Problem 988
### What is the Erdős problem?

https://www.erdosproblems.com/988

If $P\subseteq S^2$ is a subset of the unit sphere then define the discrepancy $D(P) = \max_C \lvert \lvert C\cap P\rvert - \alpha_C \lvert P\rvert \rvert$, where the maximum is taken over all spherical caps $C$, and $\alpha_C$ is the appropriately normalised measure of $C$. Is it true that $\min_{\lvert P\rvert=n}D(P)\to \infty$ as $n\to \infty$?

Status: proved (Schmidt [Sc69b]). A formal proof exists in plby/lean-proofs (`Erdos988.erdos_988`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11
* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6341.

### What changed
Adds `FormalConjectures/ErdosProblems/988.lean` with spherical caps `cap u t = {x ∈ S² | ⟨x, u⟩ ≥ t}`, the normalised surface measure `normalizedArea C = σ(C)/σ(S²)` (with `σ = volume.toSphere`), the cap discrepancy `discrepancy P` (`sSup` over caps of `| |C ∩ P| - α_C |P| |`) and `minDiscrepancy n`:
- `erdos_988` (`research solved`, `answer(True)`): `min_{|P| = n} D(P) → ∞` (Schmidt [Sc69b]). Linked to plby/lean-proofs `Erdos988.erdos_988` (Codex and GPT-5.6 Sol; single Mathlib-only file, ~2200 lines).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos988.erdos_988` → `[propext, Classical.choice, Quot.sound]`.
- plby's file uses the closed form `(1 - t)/2` for the normalised cap area; the bridge uses Archimedes' hat-box computation `rawSurface_sphericalCap` from plby's Erdős 991 development (`Erdos991/CapArea.lean`, also Mathlib-only and rebuilt here) to identify it with the actual normalised surface measure used in the statement. Bridge compiled on top of renamed copies, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter MeasureTheory

namespace Bridge988

lemma cap_eq (u : Erdos988.Sphere) (t : ℝ) : Erdos988.cap u t = Erdos988Plby.sphericalCap u t := rfl

/-- Archimedes: the normalised area of the cap with threshold `t` is `(1 - t) / 2`. -/
lemma normalizedArea_cap (u : Erdos988.Sphere) {t : ℝ} (ht : t ∈ Set.Icc (-1 : ℝ) 1) :
    Erdos988.normalizedArea (Erdos988.cap u t) = (1 - t) / 2 := by
  unfold Erdos988.normalizedArea Erdos988.surface
  rw [cap_eq, Erdos991Plby.rawSurface_sphericalCap u ht, Erdos991Plby.rawSurface_univ,
    ENNReal.toReal_ofReal (by nlinarith [ht.2, Real.pi_pos]),
    ENNReal.toReal_ofReal (by positivity)]
  field_simp
  ring

lemma discrepancy_eq (P : Finset Erdos988.Sphere) :
    Erdos988.discrepancy P = Erdos988Plby.sphericalCapDiscrepancy P := by
  unfold Erdos988.discrepancy Erdos988Plby.sphericalCapDiscrepancy Erdos988Plby.capErrorSet
    Erdos988Plby.capError Erdos988Plby.signedCapError Erdos988Plby.capArea
  congr 1
  ext r
  simp only [Set.mem_ofPred_eq]
  refine exists_congr fun u => exists_congr fun t => and_congr_right fun ht => ?_
  rw [normalizedArea_cap u ht]
  rfl

lemma minDiscrepancy_eq : Erdos988.minDiscrepancy = Erdos988Plby.minimumDiscrepancy := by
  funext n
  unfold Erdos988.minDiscrepancy Erdos988Plby.minimumDiscrepancy
  simp only [discrepancy_eq]

theorem erdos_988_bridge : type_of% Erdos988.erdos_988 := by
  show True ↔ _
  simp only [true_iff, minDiscrepancy_eq]
  exact Erdos988Plby.erdos_988

#print axioms Erdos988Plby.erdos_988
#print axioms erdos_988_bridge

end Bridge988
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«988»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/988.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/988.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/988.lean [hunk 2]
```diff
@@ -0,0 +1,87 @@
...
+-/
+
+@[expose] public section
+
+open Filter MeasureTheory
+
+namespace Erdos988
+
+/-- The unit sphere $S^2\subseteq\mathbb{R}^3$. -/
+abbrev Sphere : Type := Metric.sphere (0 : EuclideanSpace ℝ (Fin 3)) 1
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/988.lean:39]:
```suggestion
abbrev Sphere : Type := Metric.sphere (0 : ℝ^ 3) 1
```
